US04067723
Undistilled ethyl 5-cyano-4-oxo-5-(2-methylphenyl)pentanoate (prepared by the procedure described above; 773 g.) was heated under reflux with hydrobromic acid (48-50%; 1550 ml.) for 3 hours. On cooling, the reaction mixture separated into two layers. The lower, aqueous phase was separated and extracted with chloroform (3 × 500 ml.). The chloroform extract was added to the upper, organic layer of the reaction mixture. The chloroform solution (about 2 liters) thus obtained was washed with water (3 × 200 ml.) and evaporated to give 5-(2-methylphenyl)-4-oxopentanoic acid (535 g.) in the form of a dark coloured oil.

reactant | ethyl 5-cyano-4-oxo-5-(2-methylphenyl)pentanoate | C(#N)C(C(CCC(=O)OCC)=O)C1=C(C=CC=C1)C | C15H17NO3
solvent | hydrobromic acid | 1550 ml | Br | BrH
product | 5-(2-methylphenyl)-4-oxopentanoic acid | 535 g | CC1=C(C=CC=C1)CC(CCC(=O)O)=O | C12H14O3
